US07592477B2
Ammonia gas was passed through a cooled solution of 4-(3-tert-butoxycarbonylphenyl) benzyl bromide (65 g, 0.18 mol) in methanol (2 L) for 6 h. Then the reaction mixture was stirred at RT overnight. Methanol was removed under vacuum. To the residue 6N aqueous solution of HCl (200 mL) was added and stirred overnight. Concentrated completely to get 4-(3-carboxyphenyl)benzylamine as a hydrochloride salt (20 g, 41%).

reactant | Ammonia | N | H3N
reactant | 4-(3-tert-butoxycarbonylphenyl) benzyl bromide | 0.18 mol, 65 g | C(C)(C)(C)OC(=O)C=1C=C(C=CC1)C1=CC=C(CBr)C=C1 | C18H19BrO2
solvent | methanol | 2 L | CO | CH4O
product | 4-(3-carboxyphenyl)benzylamine | C(=O)(O)C=1C=C(C=CC1)C1=CC=C(CN)C=C1 | C14H13NO2
